US20010056191A1
A solution of N-Fmoc-thiourea (5.96 g, 20 mmol) in dioxane (40 mL) was treated with bromopyruvic acid (3.34 g, 20 mmol). The reaction mixture was refluxed for 1 h, then the precipitated solids were recovered by filtration and washed with diethyl ether (3×20 mL) to afford N-Fmoc-2-aminothiazole-4-carboxylic acid (7.1 g, 97%) as a white solid: EI-HRMS m/e calcd for C19H14N2O4S (M+) 366.0674, found 366.0679.

reactant | N-Fmoc-thiourea | 20 mmol, 5.96 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC(=S)N | C16H14N2O2S
reactant | bromopyruvic acid | 20 mmol, 3.34 g | BrCC(C(=O)O)=O | C3H3BrO3
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-Fmoc-2-aminothiazole-4-carboxylic acid | 7.1 g, 97% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1C(SC=C1C(=O)O)N | C19H16N2O4S
